US05219872
1,2,5,6-tetrahydropyridin-3-carboxaldehyde-O-methyloxime Hydrochloride
To a solution of 5 g (0.034 mol) of 1,2,5,6-tetrahydropyridin-3-carboxaldehyde hydrochloride, (CHEM. BER. 40, 4685, 1907)-- in 30 cm3 of water, 2.85 g (0.034 mol) of O-methyl-hydroxylamine hydrochloride is added with agitation for 1 hour at ambient temperature. The reactional mixture is evaporated to dryness and the residue is recrystallized from absolute ethanol. 4.8 g (80%) of product is obtained with m.p.. 208° C.(decomposes) White crystalline powder.

reactant | 1,2,5,6-tetrahydropyridin-3-carboxaldehyde hydrochloride | 0.034 mol, 5 g | Cl.N1CC(=CCC1)C=O
reactant | O-methyl-hydroxylamine hydrochloride | 0.034 mol, 2.85 g | Cl.CON
solvent | water | 30 cm3 | O | H2O
product | 1,2,5,6-tetrahydropyridin-3-carboxaldehyde-O-methyloxime Hydrochloride | 4.8 g, 80% | Cl.CON=CC=1CNCCC1 | InChI=1S/C7H12N2O.ClH/c1-10-9-6-7-3-2-4-8-5-7;/h3,6,8H,2,4-5H2,1H3;1H
